US04229457
A solution of 68 g of 3-(3-methoxyphenoxy)pyridine in 100 ml of glacial acetic acid is treated with 75 g of 40% peracetic acid in acetic acid. The mixture is stirred 16 hours at 35° C. and then is refluxed 1 hour. The mixture is cooled, 100 ml isopropanol added, and the mixture is concentrated at reduced pressure. The oily residue is dissolved in 500 ml of dichloromethane and is washed with excess cold 25% sodium hydroxide solution. The organic layer is concentrated to yield 3-(3-methoxyphenoxy)pyridine 1-oxide, m.p. 75°-77° C.

reactant | 3-(3-methoxyphenoxy)pyridine | 68 g | COC=1C=C(OC=2C=NC=CC2)C=CC1 | C12H11NO2
reactant | peracetic acid | 75 g | C(C)(=O)OO | C2H4O3
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-(3-methoxyphenoxy)pyridine 1-oxide | COC=1C=C(OC=2C=[N+](C=CC2)[O-])C=CC1 | C12H11NO3
